US07482341B2
Step C]: 2,4-Difluoro-N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(3-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.06 g) and 2,4-difluoro-benzenesulfonyl chloride (0.06 g) as a yellow solid(0.07 g). MS (ESI−): 407.2 ([M−H]−).

reactant | 6-(3-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.06 g | FC=1C=C(COCC2=CC=CC(=N2)N)C=CC1 | C13H13FN2O
reactant | 2,4-difluoro-benzenesulfonyl chloride | 0.06 g | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 2,4-Difluoro-N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC(=CC=C1)F | C19H15F3N2O3S
